US06313127B1
Pyridine (1 ml) was added to a solution of 1-(4-pyridyl)piperazine (0.33 g) in dry dichloromethane (20 ml) and triethylamine (1 ml) at 5° C. The reaction mixture was treated with 4-cyanobenzenesulphonyl chloride (0.40 g). The reaction mixture was then stirred under argon for 4 hours allowing to warm to room temperature. The dichloromethane solvent was removed by evaporation and the residual pyridine solution poured into aqueous sodium hydrogen carbonate solution and then extracted with ethyl acetate. The organic extracts were then washed with aqueous sodium hydrogen carbonate solution, water, brine, dried (MgSO4) and evaporated to yield a pale cream solid which was then recrystallised from ethyl acetate isohexane to give 1-(4-pyridyl)-4-(4-cyanophenylsulphonyl)piperazine (0.31 g) as a solid. m.p. 212-213° C.; microanalysis, found: C, 58.8; H, 4.9; N, 17.1%; C16H16N4O2S requires: C, 8.5: H, 4.91; N, 17.1%; NMR: (CDCl3) 3.18(t,4H), 3.44(t,4H), 6.62(dd,2H), 7.88(q,4H), 8.30(dd,2H); MS: m/z 329 (MH)+.

reactant | Pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-(4-pyridyl)piperazine | 0.33 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | 4-cyanobenzenesulphonyl chloride | 0.40 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-pyridyl)-4-(4-cyanophenylsulphonyl)piperazine | 0.31 g | N1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C#N | C16H16N4O2S
